US05039706
A. 1-(4-Fluorophenyl)-4-(3-methylphenylthio)-1-butanone
A solution of 3-thiocresol (25.0 g, 0.2 mole) and 4-chloro-4'-fluorobutyrophenone (40.1 g, 0.2 mole) in tetrahydrofuran (200 ml) was treated with triethylamine (22.3 g, 0.22 mole) and refluxed for six hours under nitrogen. The mixture was concentrated in vacuo, and the residue was partitioned between diethyl ether (200 ml) and water (200 ml). The organic layer was washed three times with sodium hydroxide (1N), water, and brine; dried over anhydrous magnesium sulfate, filtered, and concentrated to a pure oil by tlc (n-butyl chloride) to yield the title compound (57.0 g, 99%); IR(nujol): C=O @ 1686 cm-1 ; NMR(CDCl3, TMS): δ2.08(m,2H,CH2), 2.30(s,3H,ArCH3), 3.00(t,2H,CH2 --CO), 3.10(t,2H,S--CH2), 6.9-7.17(m,4H, 1,3-substituted phenyl), [7.10(d of d, 2H) and 7.97(m,2H) p-F-phenyl]; Anal. Calcd. for C17H17FNOS, MW 288.38: C,70.80; H,7.97; S,11.12. Found: C,70.79; H,6.01; S,11.18. Mass spectrum m/e 288,150.

reactant | 3-thiocresol | 0.2 mole, 25.0 g | CC1=CC(=CC=C1)S | C7H8S
reactant | 4-chloro-4'-fluorobutyrophenone | 0.2 mole, 40.1 g | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | triethylamine | 0.22 mole, 22.3 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(4-Fluorophenyl)-4-(3-methylphenylthio)-1-butanone | 57.0 g, 99% | FC1=CC=C(C=C1)C(CCCSC1=CC(=CC=C1)C)=O | C17H17FOS
